US05476860
N-piperidinyl-2-hydroxy-4-[2-hydroxy-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethoxy]benzamide
3.43 g (7.6 mmol) of N-piperidinyl-2-hydroxy-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoylmethoxy)benzamide, 100 ml of isopropanol and 50 ml of THF are introduced into a flask. The mixture is cooled to 0° C. and 144 mg (3.81 mmol) of NaBH4 are added. The mixture is stirred at 0° C. for 1 hour. Acetone is added, the solvents are evaporated, the residue is taken up in water and the mixture is adjusted to pH 6-7 with hydrochloric acid (1N). The mixture is extracted with ethyl acetate, washed with water and dried over sodium sulphate, and the solvents are evaporated. The residue obtained is purified by chromatography on a silica column eluted with a mixture of ethyl acetate and hexane (35:65). After evaporation of the solvents, the oil obtained is crystallised in hexane, filtered and dried, and 4.25 g (86%) of the expected product of melting point 124° C. are collected.

reactant | N-piperidinyl-2-hydroxy-4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoylmethoxy)benzamide | 7.6 mmol, 3.43 g | N1(CCCCC1)NC(C1=C(C=C(C=C1)OCC(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)O)=O | C28H36N2O4
reactant | isopropanol | 100 ml | C(C)(C)O | C3H8O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | NaBH4 | 3.81 mmol, 144 mg | [BH4-].[Na+]
solvent | Acetone | CC(=O)C | C3H6O
product | N-piperidinyl-2-hydroxy-4-[2-hydroxy-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethoxy]benzamide | N1(CCCCC1)NC(C1=C(C=C(C=C1)OCC(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)O)O)=O | C28H38N2O4
